### PR TITLE
feat(ErdosProblems): add 1112

### LINKED ISSUE #1965: Erdős Problem 1112: Lacunary Sequences and k-fold Sumsets Disjointness
### What is the conjecture

 Given integers $1 \leq d_1 < d_2$ and $k \geq 3$: Does there exist an integer $r$ such that for any lacunary sequence $B = \{b_1 < b_2 < \cdots\}$ of positive integers with $b_{i+1} \geq rb_i$, there exists a sequence $A = \{a_1 < a_2 < \cdots\}$ satisfying:
1. $d_1 \leq a_{i+1} - a_i \leq d_2$ for all $i \geq 1$
2. $(kA) \cap B = \emptyset$

where $kA$ denotes the $k$-fold sumset (all sums of $k$ elements from $A$ with repetition allowed)?

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://www.erdosproblems.com/1112

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-02-01)

Building blocks (1-3; from search results):
- Finset and Set operations for representing sequences and sumsets
- Natural numbers and integer arithmetic for gaps and lacunary conditions

Missing pieces (exactly 2; unclear/absent from search results):
- Formal definition and infrastructure for $k$-fold sumsets (Mathlib has Finset.sum but not the specific $kA$ summation convention)
- Lacunary sequence characterization as a predicate on sequences of naturals

Rating justification (1-2 sentences): The basic mathematical objects (sets, integers, sequences) exist in Mathlib, but formalizing the specific notion of $k$-fold sumsets and the lacunary condition requires moderate new definitions tailored to this problem. The statement itself is clear and can be expressed using Mathlib's type theory, but some infrastructure for additive combinatorics idioms is needed.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by beetree**
Adds the statement for Erdős problem 1112.

Closes #1965.

The problem is resolved - r_k(d₁,d₂) exists iff d₂ ≥ k+1 - so this goes in as `@[category research solved]` with `@[formal_proof using lean4 at ...]` pointing at the Lean development: https://github.com/beetree/math_erdos_1112 (sorry-free, three standard axioms, no `native_decide`). The development is far too long to live here.

The file adds `erdos_1112` plus two variants: the explicit bound r_k ≤ 192·d₂ above the threshold, and non-existence below it in the strong form. It defines `kFoldSumset` and a lacunary predicate inline in the problem namespace - the two pieces #1965 identified as missing - following the prevailing practice in this directory rather than adding to FormalConjecturesForMathlib. Happy to move them if preferred.

`lake build` passes with no errors and no linter warnings.

The proof and its formalization were produced with substantial AI assistance, under my direction and audit.

### CODE REVIEW

**Comment by beetree** [comment]
One note on the `answer(...)` shape, since it doesn't follow the usual pattern.

The style guidelines say that for a solved problem `answer(sorry)` should become `answer(True)` or `answer(False)`. Here neither applies: the answer depends on the parameters. For given (k, d₁, d₂) the answer is yes exactly when d₂ ≥ k+1, so the statement reads

    theorem erdos_1112 (k d₁ d₂ : ℕ) (hk : 3 ≤ k) (hd₁ : 1 ≤ d₁) (hd : d₁ < d₂) :
        Question k d₁ d₂ ↔ answer(k + 1 ≤ d₂)

with `Question` the problem as posed and the answer confined to the `answer(...)` wrapper. I kept the binders rather than moving the quantifiers into the statement so that this matches the theorem in the linked development verbatim; the AnswerLinter is happy with it, since it only flags `answer(...)` on the left of an iff.

Happy to restructure if you have a preferred convention for parameterised answers.

**Comment by beetree** [comment]
On faithfulness, since that's the judgement this file really turns on.

The linked development argues the encoding decision by decision - the additive phrasing of the gap window (an isolated `a (i+1) - a i ≤ d₂` would underflow in ℕ to `0 ≤ d₂` and admit negative gaps), the sumset ranging over arbitrary `f : Fin k → ℕ` so summands may repeat, the quantifier order `∃ r, ∀ B, ∃ A`, and the reduction from the problem's "an integer r" to `r : ℕ`:

  https://github.com/beetree/math_erdos_1112#why-this-encoding-is-faithful

The definitions in this file are copied from that development's frozen statement file rather than rewritten, so the two cannot drift.

The encoding has also been examined independently of me on the erdosproblems.com thread for 1112, where the formal statement was checked against the problem as the site states it:

  https://www.erdosproblems.com/forum/thread/1112

File: FormalConjectures/ErdosProblems/1112.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+development linked from `erdos_1112`, so that the two encodings cannot drift apart.
+-/
+
+namespace Erdos1112
+
+/-- `B` (as a strictly increasing enumeration of an infinite set of positive
+integers) is *lacunary with ratio `r`*: `b₁ ≥ 1`, `b₁ < b₂ < ⋯`, and
+`b_{i+1} ≥ r · b_i` for all `i`. -/
+def IsLacunaryWith (r : ℕ) (b : ℕ → ℕ) : Prop :=
+  0 < b 0 ∧ StrictMono b ∧ ∀ i, r * b i ≤ b (i + 1)
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:37]: There's already a `IsLacunary` in `FormalConjecturesForMathlib/NumberTheory/Lacunary.lean` that you should just be able to reuse.

File: FormalConjectures/ErdosProblems/1112.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+
+import FormalConjecturesUtil
+
+/-!
+# Erdős Problem 1112
+
+*References:*
+- [erdosproblems.com/1112](https://www.erdosproblems.com/1112)
+- [ErGr80] Erdős, P. and Graham, R. L., *Old and new problems and results in combinatorial
+  number theory*. Monogr. Enseign. Math. **28** (1980).
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:25]:
```suggestion
- [erdosproblems.com/1112](https://www.erdosproblems.com/1112)
- [BHJ97] Bollob\'{a}s, B\'{e}la and Hegyv\'{a}ri, Norbert and Jin, Guoping, On a problem of {E}rd\H{o}s and {G}raham. Discrete Math. (1997), 253--257.
- [Ch00] Chen, Yong-Gao, On sums and intersects of sequences. Discrete Math. (2000), 351--354.
- [ErGr80] Erd\H{o}s, P. and Graham, R., Old and new problems and results in combinatorial number theory. Monographies de L'Enseignement Mathematique (1980).
- [TaYa21] Tang, Min and Yang, Quan-Hui, On a problem of {E}rd\H{o}s and {G}raham. Publ. Math. Debrecen (2021), 485--493.
```

Let's include all the references.

File: FormalConjectures/ErdosProblems/1112.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+
+The definitions and the statement below mirror the frozen statement file of the Lean
+development linked from `erdos_1112`, so that the two encodings cannot drift apart.
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:28]:
```suggestion

```

File: FormalConjectures/ErdosProblems/1112.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+/--
+Let $k \geq 3$ and $1 \leq d_1 < d_2$. Does there exist an integer $r$ such that every
+lacunary sequence $B = \{b_1 < b_2 < \cdots\}$ with $b_{i+1} \geq r b_i$ admits a
+sequence $A = \{a_1 < a_2 < \cdots\}$ with $d_1 \leq a_{i+1} - a_i \leq d_2$ for all $i$
+and $(kA) \cap B = \emptyset$?
+
+This has been **solved**: such an $r$ exists if and only if $d_2 \geq k+1$.
+-/
+@[category research solved, formal_proof using lean4 at
+  "https://github.com/beetree/math_erdos_1112", AMS 5 11]
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:100]: It looks like the site hasn't formally accepted the proof yet. Let's make this as open and remove the link to the lean proof until Bloom or someone else approves it.

File: FormalConjectures/ErdosProblems/1112.lean [hunk 5]
```diff
@@ -0,0 +1,105 @@
...
+`r`" to `r : ℕ` in `Question`: any integer witness may be replaced by any larger
+natural one. -/
+@[category API, AMS 5 11]
+lemma RatioWorks.mono {k d₁ d₂ r r' : ℕ} (hrr' : r ≤ r')
+    (h : RatioWorks k d₁ d₂ r) : RatioWorks k d₁ d₂ r' := by
+  intro b hb
+  exact h b ⟨hb.1, hb.2.1, fun i => (Nat.mul_le_mul hrr' le_rfl).trans (hb.2.2 i)⟩
+
+/-- **Erdős Problem 1112**, verbatim question:
+
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:81]:
```suggestion
```

File: FormalConjectures/ErdosProblems/1112.lean [hunk 6]
```diff
@@ -0,0 +1,105 @@
...
+"Let `1 ≤ d₁ < d₂` and `k ≥ 3`. Does there exist an integer `r` such that if
+`B = {b₁ < b₂ < ⋯}` is a lacunary sequence with `b_{i+1} ≥ r·b_i` then there
+exists `A = {a₁ < a₂ < ⋯}` with `d₁ ≤ a_{i+1} − a_i ≤ d₂` for all `i` and
+`(kA) ∩ B = ∅`?"
+
+Note the quantifier order: `∃ r, ∀ B, ∃ A …` places `A` after `B`. -/
+def Question (k d₁ d₂ : ℕ) : Prop :=
+  ∃ r : ℕ, RatioWorks k d₁ d₂ r
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:89]: Let's just inline this into the problem.

File: FormalConjectures/ErdosProblems/1112.lean [hunk 7]
```diff
@@ -0,0 +1,105 @@
...
+and $(kA) \cap B = \emptyset$?
+
+This has been **solved**: such an $r$ exists if and only if $d_2 \geq k+1$.
+-/
+@[category research solved, formal_proof using lean4 at
+  "https://github.com/beetree/math_erdos_1112", AMS 5 11]
+theorem erdos_1112 (k d₁ d₂ : ℕ) (hk : 3 ≤ k) (hd₁ : 1 ≤ d₁) (hd : d₁ < d₂) :
+    Question k d₁ d₂ ↔ answer(k + 1 ≤ d₂) := by
+  sorry
+
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:104]: There's a whole set of variants associated with this problem. Can you attempt to formalize these as well or at least add a TODO?

I see at least the following:
`Erd\H{o}s and Graham \cite{ErGr80} noted that if $B=\{b_1<b_2<\cdots\}$ with $b_1\geq 5$ and $b_{i+1}\geq 2b_i$ then there is a set $A=\{a_1<a_2<\cdots\}$ with $2\leq a_{k+1}-a_k\leq 3$ for all $k$ such that $(A+A)\cap B=\emptyset$.`

`Bollob\'{a}s, Hegyv\'{a}ri, and Jin \cite{BHJ97} showed that such an $A$ must exist if $b_{i+1}\geq 2b_i-O(1)$, and that this is best possible.`

`Bollob\'{a}s, Hegyv\'{a}ri, and Jin \cite{BHJ97} provide a negative answer in that, for any sequence of integers $1\leq r_1<r_2<\cdots$, there is a $B$ as above with $b_{i+1}\geq r_ib_i$ such that $(A+A+A)\cap B\neq\emptyset$ for any $A$ with $2\leq a_{i+1}-a_i\leq 3$. They define, more generally, $r_k(d_1,d_2)$ as the smallest $r$ (if it exists) such that if $b_{i+1}\geq rb_i$ then there exists $A$ with $d_1\leq a_{i+1}-a_i\leq d_2$ such that $(kA)\cap B=\emptyset$, where $kA$ is the $k$-fold sumset.`

`It follows from the above results that $r_2(2,3)=2$ and that $r_3(2,3)$ does not exist.`

`Chen \cite{Ch00} proved that $r_2(a,b)\leq 2$ for any integers $a<b$ with $b\neq 2a$, and that $r_2(a,2a)\geq 2$ for all integers $a$.`

File: FormalConjectures/ErdosProblems/1112.lean [hunk 8]
```diff
@@ -0,0 +1,105 @@
...
+`b_{i+1} ≥ r · b_i` for all `i`. -/
+def IsLacunaryWith (r : ℕ) (b : ℕ → ℕ) : Prop :=
+  0 < b 0 ∧ StrictMono b ∧ ∀ i, r * b i ≤ b (i + 1)
+
+/-- `A` (as a strictly increasing enumeration of an infinite set of positive
+integers) has all consecutive gaps in `[d₁, d₂]`: `d₁ ≤ a_{i+1} − a_i ≤ d₂` for
+all `i`.
+
+Phrased additively to dodge `ℕ`-truncated subtraction: an isolated upper bound
+`a (i+1) − a i ≤ d₂` would underflow to `0 ≤ d₂` and silently admit negative gaps. -/
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/1112.lean:44]: In general, avoid using backticks and use LaTeX markdown instead. This applies to the rest of the docstrings down below.

**Review by danielchin — CHANGES_REQUESTED** [review]
